Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
erythromycin base / adhesive tape
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
___: flexible bronchoscopy, aspiration of secretions, BAL RML, 
balloon dilation, EBUS. Right chest tube insertion.

 
History of Present Illness:
___ y/o F w PMH of severe COPD, emphysema, history of RML
collapse, who recently underwent bronchoscopy at ___
which demonstrated complete occlusion of RML. 

The following history adapted from IP note ___:

Had asthma as a child with likely RML syndrome, with intermitted
tx w inhalers and steroids. Had cold in ___ with prolonged
recovery c/b cough and SOB that prompted imaging. Showed 
collapse
of right middle lobe and she was referred to pulmonology (Dr.
___ who did bronch showing partial collapse and stenosis at
RML. Cytology from washings/brushing was negative for malignant
cells in ___. She was continued on inhalers which controlled 
her
symptoms for some time, to the point that this ___ she
stopped taking her Symbicort (decision made w her allergist who
had been managing her inhalers). She noted she became more SOB,
then restarted on symbicort without control of symptoms so was
also given z-pack and steroid burst, again without improvement.
This prompted more imaging, which showed RML collapse. Bronch w
Dr. ___ and she had complete occlusion of RML, again
with cytology negative for malignant cells. Referred to ___ at
___. They planned for ___ w dilation, possible stent
placement, and possible EBUS/TBNA/bx/brushing/BAL.

Procedure done on ___, complicated by right pneumothorax
leading to placement of right chest tube. She was admitted for
observation until her PTX resolves. 

 
Past Medical History:
RML Syndrome
COPD/emphysema
Fibroids
Osteopenia
OA
 
Social History:
___
Family History:
Sisters: COPD (one was not smoker)
Brother: emphysema (smoker)
Father- emphysema, DM
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:
===========================
VITALS:  Reviewed in ___
GENERAL: AOx3, NAD, appears slightly uncomfortable 
HEENT: Pupils equal, round, and reactive bilaterally, 
extraocular
muscles intact. Sclera anicteric and without injection. Moist
mucous membranes, good dentition. .  
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops. 
LUNGS: Decreased breath sounds on R side especially towards 
base.
Rales throughout all lung fields. No rhonchi or wheezing noted.
Chest tube in R anterior chest w dressing c/d, draining serosang
fluid 
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants.   
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP 2+
bilaterally.  
NEUROLOGIC: Motor and sensory function grossly intact. 

PHYSICAL EXAM ON DISCHARGE:
===========================
VITALS: 98.2 104/65 20 90% RA 
GENERAL: AOx3, NAD, comfortable sitting in bed
HEENT: Pupils equal, round, and reactive bilaterally, 
extraocular
muscles intact. Sclera anicteric and without injection. Moist
mucous membranes, good dentition. 
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops. 
LUNGS: Clear to auscultation bilaterally. Chest tube site in R 
anterior chest c/d/I. 
ABDOMEN: Normal bowel sounds, non distended, non-tender to deep 
palpation in all four quadrants.   
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP 2+ 
bilaterally.  
NEUROLOGIC: Motor and sensory function grossly intact. 

 
Pertinent Results:
LAB RESULTS ON ADMISSION/DISCHARGE:
===================================
___ 04:38AM BLOOD WBC-24.1* RBC-3.92 Hgb-11.8 Hct-35.3 
MCV-90 MCH-30.1 MCHC-33.4 RDW-12.4 RDWSD-40.8 Plt ___
___ 04:38AM BLOOD Plt ___
___ 04:38AM BLOOD Glucose-135* UreaN-12 Creat-0.5 Na-134* 
K-4.8 Cl-93* HCO3-30 AnGap-11
___ 04:38AM BLOOD Calcium-9.2 Phos-3.9 Mg-1.7

IMAGING:
========
___ CXR: Right pneumothorax is large, accompanied by 
small amount of pleural effusion. No mediastinal shift or 
diaphragmatic depression to suggest hemo dynamic tension.  
Subsequent chest radiographs available at the time of this 
review show re-expansion of the right lung after insertion of a 
right pigtail pleural drainage catheter. 

___ CXR: Right-sided pigtail catheter is unchanged.  
Cardiomediastinal silhouette is stable.  There are small 
bilateral effusions.  No pneumothorax is seen. 

MICRO:
=====

___ 3:10 pm BRONCHOALVEOLAR LAVAGE      RML. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   RESPIRATORY CULTURE (Preliminary):    RESULTS PENDING. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Preliminary): 

   FUNGAL CULTURE (Preliminary): 

   POTASSIUM HYDROXIDE PREPARATION (Final ___: 
      Test cancelled by laboratory. 
      PATIENT CREDITED. 
      This is a low yield procedure based on our in-house 
studies. 
      if pulmonary Histoplasmosis, Coccidioidomycosis, 
Blastomycosis,
      Aspergillosis or Mucormycosis is strongly suspected, 
contact the
      Microbiology Laboratory (___). 

IP PROCEDURE ___
=======================
Procedure: flexible bronchoscopy, aspiration of secretions, BAL 
RML, balloon dilation, EBUS Findings: the RML is functionally 
collapsed as well as the lat segment of RML. attempted balloon 
dilation at 10mm using the cutting balloon, with much improvem
Otherwise normal to tracheobronchial tree 

 
Brief Hospital Course:
___ y/o F w PMH of severe COPD, emphysema, history of RML 
collapse, who recently underwent bronchoscopy at ___ 
which demonstrated complete occlusion of RML, now s/p bronch by
IP c/b right PTX requiring chest tube, admitted for 
post-procedure observation. 

# Right pneumothorax: Complication of bronchoscopy, requiring 
chest tube. On repeat CXR ___, pneumothorax resolved, and 
chest tube was able to be removed. She was ambulating on room 
air without difficulty with SpO2 > 90% at time of discharge. 

# Severe COPD
# RML syndrome
Patient with history of collapsed RML, with negative cytology 
from washings/brushing in ___. Bronchscopy performed on ___ 
again demonstrated functional collapse of RML. Balloon dilation 
was performed with improvement, and BAL was sent from bronch 
(cultures and cytology), results of which are pending at time of 
discharge. Patient was continued on home inhalers and treatment 
for GERD including symbicort 80mcg 2puff BID, ranitidine, and 
proair q4hrs PRN.

# Leukocytosis: Patient incidentally noted to have leukocytosis 
to 24.1 without signs and symptoms of infection, unclear 
baseline, no recent steroid use. This was thought possibly 
related to acute phase response after bronchoscopy and BAL 
(CHEST, Volume 129 , Issue 6 , ___). She was sent home 
with script for recheck CBC/diff in 1 week to ensure 
downtrending. 

TRANSITIONAL ISSUES:
====================
[] Follow up pending BAL studies 
[] Please recheck CBC/diff in 1 week (script provided)

# Code status: full, presumed
# Health care proxy/emergency contact: ___ (partner)
___ ___ (daughter) ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ranitidine 75 mg PO DAILY 
2. budesonide-formoterol 80-4.5 mcg/actuation inhalation BID 
3. estradiol 0.01 % (0.1 mg/gram) vaginal 1X/WEEK 
4. Albuterol 0.083% Neb Soln 2 NEB IH BID:PRN dyspnea 

 
Discharge Medications:
1.  Albuterol 0.083% Neb Soln 2 NEB IH BID:PRN dyspnea  
2.  budesonide-formoterol 80-4.5 mcg/actuation inhalation BID  
3.  estradiol 0.01 % (0.1 mg/gram) vaginal 1X/WEEK  
4.  Ranitidine 75 mg PO DAILY  
5.Outpatient Lab Work
Please draw: CBC/diff by ___
Fax to: ATTN ___. ___. ___ 
ICD-10: ___.___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
R Pneumothorax, iatrogenic
Right middle lobe syndrome

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___!

You were admitted for observation after you developed a R 
pneumothorax (collapsed lung) after a bronchoscopy and balloon 
dilation. A chest tube was placed, and your lung re-expanded 
afterwards, hence the chest tube was able to be removed. You 
were walking around comfortably, breathing room air.

Please follow up with the interventional pulmonary clinic after 
discharge! They have scheduled a follow up appointment in 3 
months, and you will be contacted with an appointment. 

We also noticed that you white blood cell count was quite high, 
although you had no evidence of an infection. We wonder if this 
is related to the procedure that you had. Please have this 
rechecked in 1 week, and follow up with your primary care 
doctor. 

Sincerely, 
Your ___ Care Team
 
Followup Instructions:
___